US05817671
5-(N-[4-iodobenzoyl]amino)-3-(1-methylpiperidin-4-yl)pyrrolo[3,2-b]pyridine
Beginning with 0.090 gm (0.39 mMol) 5-amino-3-(1-methylpiperidin-4-yl)pyrrolo[3,2-b]pyridine and 0.157 gm (0.59 mMol) 4-iodobenzoyl chloride, 0.035 gm (19%) of the title compound was recovered as a crystalline solid by the procedure described in Example 4.

reactant | 5-amino-3-(1-methylpiperidin-4-yl)pyrrolo[3,2-b]pyridine | 0.39 mMol, 0.090 gm | NC1=CC=C2C(=N1)C(=CN2)C2CCN(CC2)C | C13H18N4
reactant | 4-iodobenzoyl chloride | 0.59 mMol, 0.157 gm | IC1=CC=C(C(=O)Cl)C=C1 | C7H4ClIO
product | 5-(N-[4-iodobenzoyl]amino)-3-(1-methylpiperidin-4-yl)pyrrolo[3,2-b]pyridine | 0.035 gm, 19% | IC1=CC=C(C(=O)NC2=CC=C3C(=N2)C(=CN3)C3CCN(CC3)C)C=C1 | C20H21IN4O
